.subckt enable p3 p2 p1 p0 en q3 q2 q1 q0 vdd gnd
    X3 p3 en q3 vdd gnd AND
    X2 p2 en q2 vdd gnd AND
    X1 p1 en q1 vdd gnd AND
    X0 p0 en q0 vdd gnd AND
.ends enable