.subckt updateB p3 p2 p1 p0 M q3 q2 q1 q0 vdd gnd

    X3 p3 M q3 vdd gnd XOR
    X2 p2 M q2 vdd gnd XOR
    X1 p1 M q1 vdd gnd XOR
    X0 p0 M q0 vdd gnd XOR
    
.ends updateB

